US05712267
47(i) (2S,4S)-4-(4-Methoxybenzylthio)-2-[4-(imidazol-1-yl)piperidin-1-ylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)-pyrrolidine
660 mg of N,N'-carbonyldiimidazole were added to a solution of 1.52 g of (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid in 15 ml of dry acetonitrile, and the resulting mixture was stirred at room temperature for 30 minutes. A solution of 538 mg of 4-(imidazol-1-yl)piperidine in 5 ml of dry acetonitrile was then added to the solution, and the mixture was stirred at room temperature for 30 minutes and then at 40° C. for a further 7 hours. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure, and the residue was dissolved in ethyl acetate. The resulting solution was washed with an aqueous solution of sodium hydrogen-carbonate, with water and with an aqueous solution of sodium chloride, in that order. The organic solution was then dried over anhydrous sodium sulfate, and the solvent was removed by distillation under reduced pressure. The residue was purified by reverse phase column chromatography through 200 ml of Cosmo Sil 75C18 -PREP (a trade mark for a product of Nacalai Tesque), using a gradient elution method, with mixtures of acetonitrile and water ranging from 50:50 to 45 by volume as the eluent. Those fractions containing the title compound were combined and concentrated by evaporation under reduced pressure, to give 1.45 g of the title compound, as a powder.

reactant | (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid | 1.52 g | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)O)C=C1 | C21H22N2O7S
reactant | 4-(imidazol-1-yl)piperidine | 538 mg | N1(C=NC=C1)C1CCNCC1 | C8H13N3
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | (2S,4S)-4-(4-Methoxybenzylthio)-2-[4-(imidazol-1-yl)piperidin-1-ylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)-pyrrolidine | 1.45 g | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)N2CCC(CC2)N2C=NC=C2)C=C1 | C29H33N5O6S
